US04179434
By substituting N-tert-butyloxycarbonyl-S-p-methoxybenzyl-D-cysteinyl-L-tryptophane for the N-tert-butyloxycarbonyl-S-p-methoxybenzyl-D-cysteinyl-L-proline tert-butyl ester in the procedure of Example 2, D-cysteinyl-L-tryptophane is obtained.

reactant | N-tert-butyloxycarbonyl-S-p-methoxybenzyl-D-cysteinyl-L-tryptophane | C(C)(C)(C)OC(=O)N[C@H](CSCC1=CC=C(C=C1)OC)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C27H33N3O6S
reactant | N-tert-butyloxycarbonyl-S-p-methoxybenzyl-D-cysteinyl-L-proline tert-butyl ester | C(C)(C)(C)OC([C@H]1N(CCC1)C([C@H](NC(=O)OC(C)(C)C)CSCC1=CC=C(C=C1)OC)=O)=O | C25H38N2O6S
product | D-cysteinyl-L-tryptophane | N[C@H](CS)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C14H17N3O3S
